US06831080B2
Preparation of (±)-N-[1-(3-fluoro-5-morpholin-4-yl-phenyl)ethyl]-3-phenyl-acrylamide
A mixture of cinnamic acid (44 mg), 1-(3-fluoro-5-morpholin-4-yl-phenyl)ethylamine, Preparation 24 (66 mg), DMAP (36 mg), EDC.HCl (120 mg), and Et3N (120 mg) in CH2Cl2 (4 mL) was stirred for 16 hours. Purification of the crude product by flash chromatography over silica gel (elution with 50% ethyl acetate in hexane) gave 78 mg of the title compound as a solid.

reactant | cinnamic acid | 44 mg | C(C=CC1=CC=CC=C1)(=O)O | C9H8O2
reactant | 1-(3-fluoro-5-morpholin-4-yl-phenyl)ethylamine | FC=1C=C(C=C(C1)N1CCOCC1)C(C)N | C12H17FN2O
reactant | EDC.HCl | 120 mg | CCN=C=NCCCN(C)C.Cl
reactant | Et3N | 120 mg | CCN(CC)CC | C6H15N
catalyst | DMAP | 36 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | 4 mL | C(Cl)Cl | CH2Cl2
product | (±)-N-[1-(3-fluoro-5-morpholin-4-yl-phenyl)ethyl]-3-phenyl-acrylamide | 78 mg | FC=1C=C(C=C(C1)N1CCOCC1)C(C)NC(C=CC1=CC=CC=C1)=O | C21H23FN2O2
